US06437184B1
To a solution of 0.99 g of 5-(2,6-dichloro-4-(benzoyloxy)phenoxy)-pentyloxyacetone O-tert-butyloxime dissolved in 7.5 ml of methanol is added a solution of 0.15 g of potassium hydroxide dissolved in 1.5 ml of water. After stirring at room temperature for 1 hour, the reaction mixture is acidified by the addition of diluted hydrochloric acid, and concentrated. Water is added to the residue, and the mixture is extracted twice with ethyl acetate. The ethyl acetate layers are combined, washed with water, dried over anhydrous magnesium sulfate, and concentrated to give a crude product. This crude product is subjected to silica gel chromatography, which affords 5-(2,6-di-chloro-4-hydroxyphenoxy)pentyloxyacetone O-tert-butyloxime.

reactant | 5-(2,6-dichloro-4-(benzoyloxy)phenoxy)-pentyloxyacetone O-tert-butyloxime | 0.99 g | C(C)(C)(C)ON=C(C)COCCCCCOC1=C(C=C(C=C1Cl)OC(C1=CC=CC=C1)=O)Cl | C25H31Cl2NO5
reactant | potassium hydroxide | 0.15 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 7.5 ml | CO | CH4O
solvent | water | 1.5 ml | O | H2O
product | 5-(2,6-di-chloro-4-hydroxyphenoxy)pentyloxyacetone O-tert-butyloxime | C(C)(C)(C)ON=C(C)COCCCCCOC1=C(C=C(C=C1Cl)O)Cl | C18H27Cl2NO4
